US06916804B2
N-(2-{[2-(4-Chlorophenyl)-6-piperazin-1-ylpyrimidin-4-yl]amino}ethyl)acetamide (33)
N-(2-{[6-Chloro-2-(4-chlorophenyl)pyrimidin-4-yl]amino} ethyl)acetamide (1.00 g) and piperazine (2.66 g) were dissolved in DMSO (40 ml) and sodium hydrogencarbonate added (1.29 g). The mixture was heated to 110° C. for 6 hrs. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (100 ml) and water (100 ml). The aqueous phase was washed further with ethyl acetate (2×100 ml) and the combined organics subsequently washed with saturated brine solution (50 ml), dried over magnesium sulphate, filtered and the solvent removed in vacuo to afford the title compound (1.18 g).

reactant | N-(2-{[6-Chloro-2-(4-chlorophenyl)pyrimidin-4-yl]amino} ethyl)acetamide | 1.00 g | ClC1=CC(=NC(=N1)C1=CC=C(C=C1)Cl)NCCNC(C)=O | C14H14Cl2N4O
reactant | piperazine | 2.66 g | N1CCNCC1 | C4H10N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | N-(2-{[2-(4-Chlorophenyl)-6-piperazin-1-ylpyrimidin-4-yl]amino}ethyl)acetamide | 1.18 g | ClC1=CC=C(C=C1)C1=NC(=CC(=N1)NCCNC(C)=O)N1CCNCC1 | C18H23ClN6O
